US04556711
A solution of 5-(4-aminophenyl)-2(1H)-pyrazinone (1.7 g) in sodium hydroxide was reacted with 4-nitrobenzoyl chloride (1.8 g) in a manner similar to that described in Example 9 to give 5-[4-(4-nitrobenzamido)phenyl]-2(1H)-pyrazinone (1.5 g, m.p. 298°-300° C.).

reactant | 5-(4-aminophenyl)-2(1H)-pyrazinone | 1.7 g | NC1=CC=C(C=C1)C=1N=CC(NC1)=O | C10H9N3O
reactant | 4-nitrobenzoyl chloride | 1.8 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | sodium hydroxide | [OH-].[Na+]
product | 5-[4-(4-nitrobenzamido)phenyl]-2(1H)-pyrazinone | 1.5 g | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=C2)C=2N=CC(NC2)=O)C=C1 | C17H12N4O4
